US09359359B2
To a solution of 7-benzyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (390 mg, 0.93 mmol) in DMF (3 mL) was added iodoethane (150 mg, 0.962 mmol), followed by potassium carbonate (350 mg, 2.54 mmol). The reaction was stirred at 40° C. for 2 h. The mixture was cooled and partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulfate, and concentrated to give 7-benzyl-3-ethyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione (271 mg, 65.2% yield) as yellow solid. LCMS retention time 1.765 min; LCMS MH+ 447.

reactant | 7-benzyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 0.93 mmol, 390 mg | C(C1=CC=CC=C1)N1C(=NC=2NC(NC(C12)=O)=O)OC1=CC(=CC=C1)OC(F)(F)F | C19H13F3N4O4
reactant | iodoethane | 0.962 mmol, 150 mg | ICC | C2H5I
reactant | potassium carbonate | 2.54 mmol, 350 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 7-benzyl-3-ethyl-8-(3-(trifluoromethoxy)phenoxy)-1H-purine-2,6(3H,7H)-dione | 271 mg, 65.2% yield | C(C1=CC=CC=C1)N1C(=NC=2N(C(NC(C12)=O)=O)CC)OC1=CC(=CC=C1)OC(F)(F)F | C21H17F3N4O4
